US08222243B2
(3R)-N-methylpiperidine-3-carboxamide
A solution of D-Cbz-Nipecotic acid ((R)-Piperdine-1,3,-dicarboxylic acid 1-benzyl ester) (1.32 g, 5.0 mmol) in toluene (25 mL) was treated with DMF (20 μL) followed by oxalyl chloride (646 μL, 7.5 mmol). The reaction mixture was stirred for 3 hr and evaporated to an oil. The crude acid chloride was then dissolved in THF (20 mL), cooled to 0-5° C., and treated with a 2 M THF solution of methylamine (7.5 mL, 15 mmol). The reaction mixture was stirred for 2 hr, allowed to warm to room temperature and evaporated in vacuo to afford solids which were filtered with the aid of water to afford Cbz-protected intermediate as a colorless solid (1.25 g, 91%). LC/MS 5.05 min, [M+1]+ 277. The CbZ-protected intermediate (1.0 g, 3.62 mmol) was dissolved in EtOH (50 mL), treated with a 10% palladium on carbon (50% water content) catalyst (750 mg) and hydrogenated at 60-70 psi hydrogen for 5 hr. The crude reaction mixture was then filtered through Celite, evaporated in vacuo, and redisolved in EtOH (10 mL) which was filtered through a nylon syringe filter to remove residual catalyst. Evaporation of the solution afforded crude product as a tacky solid (581 mg, 113%). LC/MS 0.68 min, [M+1]+ 143.

reactant | DMF | 20 μL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 7.5 mmol, 646 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | 15 mmol, 7.5 mL | CN | CH5N
reactant | hydrogen | [H][H] | H2
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
solvent | THF | 2 M | C1CCOC1 | C4H8O
product | (3R)-N-methylpiperidine-3-carboxamide | 581 mg, 113% | CNC(=O)[C@H]1CNCCC1 | C7H14N2O
